US09447086B2
Preparation of (2R,3S)-2-isopropyl-4-(toluene-4-sulfonyl)-morpholine-3-carboxylic acid methyl ester (Compound AP)
A mixture of (2S,3R)-3-hydroxy-4-methyl-2-(toluene-4-sulfonylamino)-pentanoic acid methyl ester (0.4 g, 1.27 mmol) and diphenylvinylsulfonium triflate (0.5 g, 1.4 mmol) in dichloromethane (10 mL) was added triethylamine dropwise at 0° C. After stirring for 12 hours, the mixture was diluted with water, and then extracted with ethyl acetate, then dried over sodium sulfate. After removal of solvent, the residue was purified by flash chromatopraphy (eluented with ethyl acetate/hexane=1:4) to afford the product as a white solid. MS: calc'd (MH+) 342, measured (MH+) 342.

reactant | (2S,3R)-3-hydroxy-4-methyl-2-(toluene-4-sulfonylamino)-pentanoic acid methyl ester | 1.27 mmol, 0.4 g | COC([C@H]([C@@H](C(C)C)O)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C14H21NO5S
reactant | diphenylvinylsulfonium triflate | 1.4 mmol, 0.5 g | [O-]S(=O)(=O)C(F)(F)F.C1(=CC=CC=C1)C(=C[SH2+])C1=CC=CC=C1
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2R,3S)-2-isopropyl-4-(toluene-4-sulfonyl)-morpholine-3-carboxylic acid methyl ester | COC(=O)[C@H]1N(CCO[C@@H]1C(C)C)S(=O)(=O)C1=CC=C(C=C1)C | C16H23NO5S
